US09029391B2
tert-Butoxy-[4-(4-methoxy-3,5-dimethyl-phenyl)-2-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester
To a solution of (4-Bromo-2-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-tert-butoxy-acetic acid methyl ester (120 mg, 0.3 mmol) in 5 ml of dioxane/H2O (5:1) was added 4-methoxy-3,5-trimethylphenylboronic acid (66 mg, 0.36 mmol), PPh3(48 mg, 0.18 mmol) and Na2CO3(96 mg, 0.9 mmol), then Pd(dppf)Cl2 (48 g, 0.06 mmol). Then the resultant mixture was stirred at 90° C. under N2 overnight. LCMS showed SM was consumed, the reaction mixture was cooled to RT, removed the solvent, the residue was purified by column chromatography on silica gel eluted with (PE:EA=10:1) to afford title product. (m=130 mg, yield=81%).

reactant | (4-Bromo-2-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-tert-butoxy-acetic acid methyl ester | 0.3 mmol, 120 mg | COC(C(OC(C)(C)C)C=1N(C(C2=CC=CC=C2C1Br)=O)C)=O | C17H20BrNO4
reactant | PPh3 | 0.18 mmol, 48 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Na2CO3 | 0.9 mmol, 96 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dioxane H2O | 5 ml | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 0.06 mmol, 48 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butoxy-[4-(4-methoxy-3,5-dimethyl-phenyl)-2-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester | yield=81% | COC(C(C=1N(C(C2=CC=CC=C2C1C1=CC(=C(C(=C1)C)OC)C)=O)C)OC(C)(C)C)=O | C26H31NO5
